US08431596B2
5-(1-Benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine
A microwave vial containing 5-methylsulfanyl-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine (0.05 g, 0.276 mmol), 1-benzyl-1H-pyrazole-4-boronic acid (123 mg, 0.607 mmol), copper(I) thiophene carboxylate (116 mg, 0.607 mmol) and tetrakis(triphenylphosphine)palladium (33 mg, 0.028 mmol) in THF (1.2 mL) was heated under microwave irradiation (130° C., 15 min). The reaction mixture was filtered through celite and the cake washed with dichloromethane. The filtrate was washed with water followed by brine, dried over magnesium sulfate and concentrated under vacuum. Trituration with diethyl ether provided a yellow solid that did not require further purification. Yield: 0.05 g, 63%; LCMS method: 2, RT: 3.18 min, MI: 292 [M+1].

reactant | 5-methylsulfanyl-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine | 0.276 mmol, 0.05 g | CSC1=NC=CC=2N1N=C(N2)N | C6H7N5S
reactant | 1-benzyl-1H-pyrazole-4-boronic acid | 0.607 mmol, 123 mg | C(C1=CC=CC=C1)N1N=CC(=C1)B(O)O | C10H11BN2O2
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
catalyst | copper(I) thiophene carboxylate | 0.607 mmol, 116 mg | S1C(=CC=C1)C(=O)[O-].[Cu+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.028 mmol, 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1-Benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=CC=2N1N=C(N2)N | C15H13N7
